US07875636B2
To a suspension of 4-isopropylphenylacetic acid (2.5 g, 14.0 mmol), (1R)-1-(5-methoxypyridin-2-yl)ethylamine hydrochloride (3.2 g, 16.8 mmol), EDC (3.24 g, 16.9 mmol), and 1-hydroxy-7-azabenzotriazole (2.3 g, 16.8 mmol) in DMF (60 mL) was added N,N-diisopropylethylamine (5.2 mL, 29.6 mmol). The reaction mixture was stirred at room temperature for 2.5 h and then concentrated to 20 mL and diluted with CH2Cl2 (100 mL). The solution was washed with water (100 mL) and the aqueous layer was extracted with CH2Cl2 (2×75 mL). The combined organic layer was washed with water (100 mL), dried over MgSO4, concentrated and purified by normal phase chromatography (10-100% EtOAc/Hexanes) to give of 2-(4-isopropylphenyl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]acetamide as a pale yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.14 (d, J=2.56 Hz, 1H), 7.20 (m, 4H), 7.13 (m, 2H), 6.69 (d, J=6.78 Hz, 1H), 5.08 (quint., J=6.96 Hz, 1H), 3.84 (s, 3H), 3.55 (s, 2H), 2.90 (sept., J=6.96 Hz, 1H), 1.39 (d, J=6.77 Hz, 3H), 1.25 (d, J=6.96 Hz, 6H); MS (Electrospray): m/z 313.4 (M+H).

reactant | 4-isopropylphenylacetic acid | 14.0 mmol, 2.5 g | C(C)(C)C1=CC=C(C=C1)CC(=O)O | C11H14O2
reactant | (1R)-1-(5-methoxypyridin-2-yl)ethylamine hydrochloride | 16.8 mmol, 3.2 g | Cl.COC=1C=CC(=NC1)[C@@H](C)N
reactant | EDC | 16.9 mmol, 3.24 g
reactant | 1-hydroxy-7-azabenzotriazole | 16.8 mmol, 2.3 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethylamine | 29.6 mmol, 5.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-(4-isopropylphenyl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]acetamide | C(C)(C)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OC | C19H24N2O2
